Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
URINE RETENTION
 
Major Surgical or Invasive Procedure:
foley catheter insertion on ___ inserted in the hospital 
prior to transfer to the ___

 
History of Present Illness:
___, hx BPH s/p TURP who presents with one week of constipation
and urine retention.  

The patient was well until 1 week ago when he started
experiencing worsening constipation, urinary retention for ___
days which was the main reason for presenting to BI-N. The
problem urinary started with him having to strain to void.
voinding is associated with pain. Often straining leads to stool
incontentnet. On the day of his presentation to ___, he had
mod suprapubic pain and was found to have TTP. He was unable to
void at home. Therefore, when he arrived to ___, a foley was
placed with 350ml UOP. 

UA at ___ did not show evidence of UTI and his labs were
normal. His CT AP showed pelvic adenopathy and pelvic bony
lesions concerning for prostate cancer with metastasis. Due to
concerns for urine retention he was sent to the ___ for an 
MRI.

In the ED
=============
Initial vitals: 100.9 67 153/93 16 98% RA 
 
His history at the ED was notable for 1 month of back pain
(mostly buttock pain), no weight loss, no weakness of
extremities, 

His exam was notable for intact strength of lower limb
bilaterally, no midline or paraspinal tenderness or saddle
anesthesia and a normal rectal tone.

Labs were significant for: normal CBC, lytes and lactate but
positive UA.  

     12.1     MCV=92 
8.5>------<249 
     35.6  

141  104  13       AGap=12 
--------------< 98 
4.3  25  0.9 

Lactate:1.6

Blood cultures were collected. 

UA positive for leuk, protein, RBC, WBC. and negative for 
nitrate
and epi. 

Imaging:
Since the concern for cord compression was low. an MRI of the
spine was not obtained. 
 

The patient received:
___ 05:04 IV CefTRIAXone 
___ 05:14 IV CefTRIAXone 1 g 
___ 06:57 PO/NG Lisinopril 20 mg 
___ 06:57 PO/NG Atenolol 50 mg 

The patient was shifted to the floor. On the floor, The patient
is complaining of mild pain from the site of the foley cath.
However, he denies abdominal pain, fever, n/v/d/c no CP or SOB.
 
Past Medical History:
- BPH s/p TURP
- HTN
 
Social History:
___
Family History:
HTN runs in the family. his FH of cancer (no PCa
in family).
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
VS:  98.3 PO 169 / 80 55 18 95 Ra  
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor.
PERRLA, EOMI. 
NECK: Supple without LAD  
PULM: full air entry bilaterally, no crackle. no wheeze. no
rhonchi 
HEART: RRR (+)S1/S2 no m/r/g  
ABD: Soft, distended (fat), mildly uncomfortable in the
supra-pubic area. No rebound/guarding. BS+. no hemorrhoids on
inspection.
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII intact, strength ___ in b/l ___, SLIT, normal
rectal tone
GU: foley in place. 

DISCHARGE PHYSICAL EXAM: 
========================
VS:  98.2 PO 126 / 65 L Lying 60 19 97 RA 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor.
PERRLA, EOMI. 
NECK: Supple without LAD  
PULM: full air entry bilaterally, no crackle. no wheeze. no
rhonchi 
HEART: RRR (+)S1/S2 no m/r/g  
ABD: Soft, distended (fat), mildly uncomfortable in the
supra-pubic area. No rebound/guarding. BS+. no hemorrhoids on
inspection.
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII intact, strength ___ in b/l ___, SLIT, normal
rectal tone
GU: foley in place. 
 
Pertinent Results:
ADMISSION TESTS:
=====================
___ 03:35AM   LACTATE-1.6
___ 03:00AM   GLUCOSE-98 UREA N-13 CREAT-0.9 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-25 ANION GAP-12
___ 03:00AM   estGFR-Using this
___ 03:00AM   ALT(SGPT)-9 AST(SGOT)-15 LD(LDH)-171 ALK 
PHOS-126 TOT BILI-0.3
___ 03:00AM   GGT-28
___ 03:00AM   ALBUMIN-3.8 IRON-56
___ 03:00AM   calTIBC-283 FERRITIN-76 TRF-218
___ 03:00AM   PSA-83*
___ 03:00AM URINE  HOURS-RANDOM
___ 03:00AM URINE  UHOLD-HOLD
___ 03:00AM   WBC-8.5 RBC-3.86* HGB-12.1* HCT-35.6* MCV-92 
MCH-31.3 MCHC-34.0 RDW-12.5 RDWSD-41.9
___ 03:00AM   NEUTS-69.5 LYMPHS-17.1* MONOS-11.6 EOS-0.8* 
BASOS-0.6 IM ___ AbsNeut-5.91 AbsLymp-1.45 AbsMono-0.99* 
AbsEos-0.07 AbsBaso-0.05
___ 03:00AM   PLT COUNT-249
___ 03:00AM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 03:00AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-MOD*
___ 03:00AM URINE  RBC-107* WBC-38* BACTERIA-FEW* 
YEAST-NONE EPI-<1
___ 03:00AM URINE  MUCOUS-OCC*

DISCHARGE TESTS:
=================
___ 06:47AM BLOOD WBC-6.7 RBC-3.98* Hgb-12.3* Hct-36.8* 
MCV-93 MCH-30.9 MCHC-33.4 RDW-12.3 RDWSD-42.0 Plt ___
___ 06:47AM BLOOD Glucose-104* UreaN-16 Creat-0.8 Na-141 
K-4.6 Cl-104 HCO3-29 AnGap-8*
___ 06:47AM BLOOD Calcium-9.9 Phos-2.9 Mg-1.9

NOTABLE TEST:
==============
SEE ___ RECORDS FOR CT ABDOMEN PELVIS.
 
Brief Hospital Course:
This is a ___ with history of HTN and BPH who presents with 
acute urine retention and a CT scan suggestive of metastatic 
process to the spine without spine instability. s/p foley with 
improvement in his symptoms.  During his stay the patient was 
treated for the following problems: 

# UTI with fever:
Given his history of fever in the emergency room to 100.7 and a 
positive UA, we started the patient on ceftriaxone for treatment 
of UTI.  There is no evidence of CVA tenderness, CT abdomen and 
pelvis from ___ did not show evidence of obstruction or Pilo, 
and his blood cultures did not grow anything after 48 hours 
which supports a lower urinary tract infection.  The patient has 
several risk factors to a UTI including TURP and BPH.  His UTI 
might be the cause of his attention is the main reason of his 
presentation.  The patient was discharged with ciprofloxacin 
orally to complete a 5 day course treatment END ___. 

# Urine retention:
# BPH:
The patient presented with abdominal pain and inability to 
urinate completely consistent with a diagnosis of urinary 
retention.  Foley catheter was placed and CT of the abdomen and 
pelvis was concerning for metastases from ? prostate cancer.  
Other causes of urine retention include UTI and possible 
stricture after TURP procedure.  Urology was consulted during 
this hospital stay and recommended starting Flomax and laxatives 
to treat constipation.  He was discharged with a Foley catheter 
for a follow-up in ___ days for a voiding trial.

# Back pain
#Bony metastases to the spine and liver:
The patient has history of elevated PSA in the past with no 
scans of biopsies of the prostate that we have on record. He 
recalls a discussion with his urologist who performed the prior 
TURM during which he declined acting on the elevated PSA. His CT 
scan shows Bone metastatic from an unknown primary and to day 
there is no tissue diagnosis made yet.  Also noted on the CT 
from ___ are multiple hypodense lesions in the liver which 
might represent mets vs. intrusive liver masses.  The patient's 
LFTs and hospital were normal and his PSA was 83.  The patient 
elected to undergo tissue biopsy as an outpatient.

# HTN: We continued his home lisinopril

Transitional issues:
–the patient was discharged with a Foley catheter due to 
diagnosis of urinary retention.  He will need a follow-up with 
the ___ clinic in ___ days for a void trial.
–Patient will need a bone scan as an outpatient to characterize 
bony lesions noted CT scan from ___
–Patient will need a CT abdomen and pelvis with and without 
contrast to better characterize the bony lesions and liver 
lesions.  Also consider a dedicated liver MRI to examine further 
the liver lesions.
–The patient was discharged on ciprofloxacin for a short 
duration therapy of UTI. END DATE ___.
–The patient has elevated PSA levels during admission.  Further 
prostate imaging and workup for prostate cancer is recommended.

**The patient was seen and examined today and is stable for 
discharge. > 30 minutes were spent on discharge planning and 
coordination.**
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN contipation  
3.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily Disp #*14 
Capsule Refills:*0 
4.  Atenolol 50 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
urinary tract infection
BPH
acute urine retention
back pain
HTN
abnormal imaging finding of the spine and liver concerning for 
metatatic cancer.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___. You were 
admitted because of: 
- Inability to pass urine 
- To investigate the cause of multiple masses/growths in your 
spine and liver which are concerning for cancer. 
- Urine tract infection. 

During your hospital stay the following was done:
- We placed a foley catheter help you urinate. 
- Started you on laxative medications
- Started you on medication that relax your prostate to reduce 
the risk of obstruction
- Started you on antibiotics to treat your urine infection.

On discharge we recommend the following:
- keep the foley catheter in and don't pull on it.
- Please take your antibiotic called "Ciprofloxacin" twice daily 
until ___ evening. 
- please take your laxatives as needed to avoid constipation.
- Since you elected to have all your tests regarding the 
abnormal masses in your spine done as an outpatient, we 
recommend that you undergo imaging of the belly and biopsies 
from the abnormal masses/growth to diagnose the cause of the 
abnormal masses. We will communicate with your primary care 
provider our recommendations and you will follow up with him.
- Please follow up with the ___ clinic in ___ day to 
see if your can urinate without the foley catheter. 
- Please report any symptoms of dizziness to you primary care 
provider, especially if dizziness occurs when you stand up. 

It was a pleasure taking care of you at the ___. We wish you 
all the best. 

Your ___ team.
 
Followup Instructions:
___